US05189036
1-(4-Fluorobenzoyl)-4-(1-oxoethyl)piperidine
In a manner similar to that described in Preparation 4, 1-(4-fluorobenzoyl)piperidine-4-carboxylic acid is reacted with methylmagnesium bromide to afford the title compound.

reactant | 1-(4-fluorobenzoyl)piperidine-4-carboxylic acid | FC1=CC=C(C(=O)N2CCC(CC2)C(=O)O)C=C1 | C13H14FNO3
reactant | methylmagnesium bromide | C[Mg]Br
product | 1-(4-Fluorobenzoyl)-4-(1-oxoethyl)piperidine | FC1=CC=C(C(=O)N2CCC(CC2)C(C)=O)C=C1 | C14H16FNO2
